US05380742
1.2 1-Methyl-5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole.
9.4 ml (15 mmol) of a 1.6M solution of butyllithium in hexane are added, at -70° C., to a solution of 3.5 g (12.5 mmol) of 5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole in 40 ml of dry tetrahydrofuran; after 15 min, 1 ml (16 mmol) of iodomethane is added, the mixture is then stirred at room temperature for 30 min and poured into 200 ml of water. The precipitate formed is filtered and washed with hexane; after purification on silica gel using the 1/9 ethyl acetate/hexane eluent mixture, there are obtained 3.16 g of a white solid. Yield 86%. Melting point: 158°-160° C.

reactant | butyllithium | C(CCC)[Li]
reactant | 5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 12.5 mmol, 3.5 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1CC=2C(C1)=CSC2 | C13H13NO2S2
reactant | iodomethane | 16 mmol, 1 ml | IC | CH3I
reactant | water | 200 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-Methyl-5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 3.16 g, Yield 86% | CC=1SC=C2C1CN(C2)S(=O)(=O)C2=CC=C(C)C=C2 | C14H15NO2S2
